US04451471
10 g of the 1,2-bis-(p-methoxyphenyl)-2-isothiocyanoethanone so obtained are suspended in 150 ml of diethyl ether and, while stirring, the suspension is cooled to 15°-20°. Gaseous hydrogen chloride is then introduced slowly at such a rate that the reaction temperature does not exceed 20°. After about 45 minutes a clear, yellowish solution is obtained. It is maintained at 15° and a little hydrogen chloride is introduced for a further 7 hours, the solution is left to stand overnight at 15°, poured onto 300 ml of ice, the diethyl ether is removed by distillation, and the crystalline precipitate is filtered with suction, then washed twice with water and sucked dry on a suction filter. The crude product is recrystallised from 100 ml of hexane. 2-Chloro-4,5-bis-(p-methoxyphenyl)-thiazole having a melting point of 92°-94° is obtained.

reactant | 1,2-bis-(p-methoxyphenyl)-2-isothiocyanoethanone | 10 g | COC1=CC=C(C=C1)C(C(N=C=S)C1=CC=C(C=C1)OC)=O | C17H15NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-Chloro-4,5-bis-(p-methoxyphenyl)-thiazole | ClC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C17H14ClNO2S
